US04041159
Preparation of 4-ethylpropylamino-N-p chlorophenylthio-N-methyl-3,5-dinitrobenzenesulfonamide
A 2.2 g (0.012 mol) sample of p-chlorophenylsulfenyl chloride was added dropwise to a cooled (-5° C. to 0° C.) solution of 3.5 g (0.1 mol) 4-ethylpropylamino-N-methyl-3,5-dinitrobenzenesulfonamide and 1.1 g (0.014 mol) pyridine in 25 ml dichloromethane. The reaction was stirred for 20 minutes and then diluted with 50 ml dichloromethane, washed with water, washed with aqueous sodium bicarbonate solution, and dried over magnesium sulfate. The dichloromethane was then evaporated under reduced pressure to give a solid residue. Recrystallization from ethanol gave the product as red-orange plates, m.p. 89°-91° C. Elemental analysis for C18H21ClN4O6S2 showed: % S, calc. 13.1, found 13.3; % Cl, calc. 7.3, found 7.8.

reactant | p-chlorophenylsulfenyl chloride | ClC1=CC=C(C=C1)SCl | C6H4Cl2S
reactant | 4-ethylpropylamino-N-methyl-3,5-dinitrobenzenesulfonamide | 0.1 mol, 3.5 g | C(C)C1=C(C(=C(C=C1[N+](=O)[O-])S(=O)(=O)NC)NCCC)[N+](=O)[O-] | C12H18N4O6S
reactant | pyridine | 0.014 mol, 1.1 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-ethylpropylamino-N-p chlorophenylthio-N-methyl-3,5-dinitrobenzenesulfonamide | C(C)C1=C(C(=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)SC1=CC=C(C=C1)Cl)NCCC)[N+](=O)[O-] | C18H21ClN4O6S2
